US05441969
4-Hydroxymethyl-3-thienylboronic acid.
To a solution of 4-formyl-3-thienylboronic acid (1.0 g, 6.4 mmol) in dry THF (10 ml) sodium borohydride (0.27 g, 7.1 mmol) was added. The mixture was stirred at room temperature for 30 minutes. The reaction was then stopped by the addition of 1M hydrochloric acid and was then extracted with ethyl acetate, dried and evaporated to dryness. Yield: 0.9 g, 89%, dec. at ≈120° C.

reactant | 4-formyl-3-thienylboronic acid | 6.4 mmol, 1.0 g | C(=O)C=1C(=CSC1)B(O)O | C5H5BO3S
reactant | THF | 7.1 mmol, 10 ml, 0.27 g | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 1M | Cl | ClH
product | 4-Hydroxymethyl-3-thienylboronic acid | OCC=1C(=CSC1)B(O)O | C5H7BO3S
